US04481366
A reactor flushed with argon was cooled with a liquid nitrogen-pentane cooling medium, and 15.0 g (0.129 mol) of chlorotrifluoroetylene was fed into the reactor. To this reactor, 50 ml of anhydrous tetrahydrofuran (THF), 30 ml of diethyl ether (Et2O) and 30 ml of pentane were introduced to bring the concentration of chlorotrifluoroethylene to 1 mmol/ml. Then, 16.1 g (0.107 mol) of chlorotriethylsilane was introduced. The reactor was cooled to -130° C., and then 88 ml (0.140 mol) of a hexane solution of butyllithium (1.6M) was introduced over a period of one hour. Then, the temperature was gradually raised to room temperature over 7.5 hours. The reaction solution was filtered and dried through a column of Celite placed on anhydrous sodium sulfate. The solvent was removed, and the residue was distilled, whereby 17.8 g of triethyltrifluorovinylsilane was obtained as a colorless transparent oil (yield: 85.1%).

reactant | nitrogen pentane | N#N.CCCCC
reactant | chlorotrifluoroetylene | 0.129 mol, 15.0 g | ClC(=C(F)F)F | C2ClF3
reactant | chlorotriethylsilane | 0.107 mol, 16.1 g | Cl[Si](CC)(CC)CC | C6H15ClSi
reactant | hexane | 0.140 mol, 88 ml | CCCCCC | C6H14
reactant | butyllithium | 1.6M | C(CCC)[Li]
solvent | pentane | 30 ml | CCCCC | C5H12
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | triethyltrifluorovinylsilane | 17.8 g | C(C)[Si](C(=C(F)F)F)(CC)CC | C8H15F3Si
